US06825200B1
2-Amino-1-[4-(4-chlorophenyl)-1-piperazinyl]ethan-1-one dihydrochloride
To a solution of tert-butoxy-N-[2-[4-(4-chlorophenyl)-1-piperazinyl]-2-oxoethyl]formamide (31 g) in methanol (60 ml) was added 4N hydrogen chloride in ethyl acetate (219 ml) at 0° C. and the mixture was stirred at 0° C. for 30 minutes. The reaction mixture was allowed to warm to room temperature, stirred for 1 hour and diluted with ethyl acetate. The resulting solid was collected by filtration and washed with ethyl acetate. The solid was dried to give the title compound (29 g).

reactant | tert-butoxy-N-[2-[4-(4-chlorophenyl)-1-piperazinyl]-2-oxoethyl]formamide | 31 g | C(C)(C)(C)ON(C=O)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C17H24ClN3O3
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
solvent | ethyl acetate | 219 ml | C(C)(=O)OCC | C4H8O2
product | 2-Amino-1-[4-(4-chlorophenyl)-1-piperazinyl]ethan-1-one dihydrochloride | 29 g | Cl.Cl.NCC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | InChI=1S/C12H16ClN3O.2ClH/c13-10-1-3-11(4-2-10)15-5-7-16(8-6-15)12(17)9-14;;/h1-4H,5-9,14H2;2*1H
